US07166597B2
To a stirred solution of tert-butyldimethylsilyl chloride (16.6 g, 0.11 mol) and imidazole (16.3 g, 0.24 mol) in DMF (20 mL) was added 4-pyridinemethanol (10 g, 0.09 mol) and the mixture was stirred for about 1 h. The reaction mixture was poured into diethyl ether (200 mL) and the resulting solution was washed with water (100 mL). The aqueous phase was extracted with diethyl ether and the combined organic phases are washed with water, brine and dried (MgSO4). The solvent was evaporated under reduced pressure to leave 4-(tertbutyidimethylsilyloxymethyl)pyridine, 22.5 g. 1H NMR (d6-DMSO) d 8.49 (d, 2H), 7.27 (d, 2H), 4.62 (s, 2H), 0.9 (s, 9H), 0.09 (s, 6H).

reactant | tert-butyldimethylsilyl chloride | 0.11 mol, 16.6 g | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
reactant | imidazole | 0.24 mol, 16.3 g | N1C=NC=C1 | C3H4N2
reactant | 4-pyridinemethanol | 0.09 mol, 10 g | N1=CC=C(C=C1)CO | C6H7NO
reactant | diethyl ether | 200 mL | C(C)OCC | C4H10O
reactant | DMF | 20 mL | CN(C)C=O | C3H7NO
product | 4-(tertbutyidimethylsilyloxymethyl)pyridine | C(C)(C)(C)C(C1=CC=NC=C1)O[SiH](C)C | C12H21NOSi
